US04410520
A solution of 3-(S)-t-butyloxycarbonylamino-1-t-butyloxycarbonylmethyl-5-acetoxy-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one (2.2 g) in ethanol (300 ml) containing 10% Pd/C (2.0 g) was placed in a pressure bottle and hydrogenated at 3 atmospheres pressure and 70° for 3 days. The catalyst was filtered off and the filtrate evaporated to give 3-(S)-t-butyloxycarbonylamino-1-t-butyloxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one, m.p. 164°-165° [α]D =-200.6° (c=0.64 in DMF).

reactant | 3-(S)-t-butyloxycarbonylamino-1-t-butyloxycarbonylmethyl-5-acetoxy-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 2.2 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N(C2=C(C(C1)OC(C)=O)C=CC=C2)CC(=O)OC(C)(C)C)=O | C23H32N2O7
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | Pd/C | 2.0 g | [Pd] | Pd
product | 3-(S)-t-butyloxycarbonylamino-1-t-butyloxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | C(C)(C)(C)OC(=O)N[C@@H]1C(N(C2=C(CC1)C=CC=C2)CC(=O)OC(C)(C)C)=O | C21H30N2O5
